US09145419B2
28B. 4-(Imidazo[1,2-b]pyridazin-8-yl)isoquinoline
A pressure bottle charged with a mixture of 4-(6-chloroimidazo[1,2-b]pyridazin-8-yl)isoquinoline (270 mg, 0.962 mmol), ammonium formate (243 mg, 3.85 mmol), palladium hydroxide on carbon (67 mg, 0.1 mmol) (20% wet), and EtOH (5 ml). The pressure bottle charged with a mixture of 4-(6-chloroimidazo[1,2-b]pyridazin-8-yl)isoquinoline (270 mg, 0.962 mmol), ammonium formate (243 mg, 3.85 mmol), palladium hydroxide on carbon (67 mg, 0.1 mmol) (20% wet), and EtOH (5 ml) was stirred at room temperature for 5 min. under nitrogen. The resulting mixture was heated to 50° C. for 20 min and cooled to room temperature. The reaction mixture was passed through a pad of CELITE® and washed with MeOH. The filtrate was concentrated and the residue was purified by BIOTAGE® (20-60% EtOAc/CH2Cl2, 1.5 L) to give the product (220 mg, 93%). LC/MS: Rt=0.54 min. LC/MS (Condition A): 247.17.

reactant | 4-(6-chloroimidazo[1,2-b]pyridazin-8-yl)isoquinoline | 0.962 mmol, 270 mg | ClC=1C=C(C=2N(N1)C=CN2)C2=CN=CC1=CC=CC=C21 | C15H9ClN4
reactant | ammonium formate | 3.85 mmol, 243 mg | C(=O)[O-].[NH4+]
reactant | 4-(6-chloroimidazo[1,2-b]pyridazin-8-yl)isoquinoline | 0.962 mmol, 270 mg | ClC=1C=C(C=2N(N1)C=CN2)C2=CN=CC1=CC=CC=C21 | C15H9ClN4
reactant | ammonium formate | 3.85 mmol, 243 mg | C(=O)[O-].[NH4+]
catalyst | palladium hydroxide on carbon | 0.1 mmol, 67 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 0.1 mmol, 67 mg | [OH-].[OH-].[Pd+2]
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 4-(Imidazo[1,2-b]pyridazin-8-yl)isoquinoline | 220 mg, 93% | N=1C=CN2N=CC=C(C21)C2=CN=CC1=CC=CC=C21 | C15H10N4
